* C:\Users\tijnj\OneDrive - Delft University of Technology\TN  25-26\DeF D\opdrachten-DEF-D\FysiekeOntwerpopdrachten\3OntwerpEenTransistor\Templates 2025\NMOS_EKL_digital_template_XYZ.asc
* Generated by LTspice 26.0.1 for Windows.
M§NMOS1 Vout Vin 0 0 nekl l=5u w=3000u
Vin Vin 0 PULSE(0 5 0 1n 1n 25u 50u)
Vdd Vdd 0 5
Rchip Vdd Vout 1k
Cpad2 Vdd 0 345p
Cpad1 Vin 0 345p
Cpad3 Vout 0 345p
Ccable Vout 0 150p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tijnj\AppData\Local\LTspice\lib\cmp\standard.mos
.lib nmosekl.lib
.tran 0 200u 0 0.1u
* Chip
* input signal from\nfunction generator
* instructions for\nLTSpice
* constant \nvoltage source
.backanno
.end
